US04187216
6 g (0.02 mol) of N-benzyloxycarbonyl-L-alanine anilide were dissolved in 30 ml of 4-N hydrogen bromide in acetic acid and the solution was stirred for 1 hour at room temperature. 300 ml of dry ether were then added. An oil precipitated out and was allowed to settle. The solvents were decanted off and the oil was washed with two 150 ml portions of ether, dissolved in a small amount of methanol and an excess of ethyl acetate was added. The product crystallised out, there being obtained 4.0 g (81%) of L-alanine anilide hydrobromide of melting point 244°-247° C.

reactant | N-benzyloxycarbonyl-L-alanine anilide | 0.02 mol, 6 g | C(C1=CC=CC=C1)OC(=O)N(C1=CC=CC=C1)C([C@@H](N)C)=O | C17H18N2O3
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | L-alanine anilide hydrobromide | 4.0 g, 81% | Br.N[C@@H](C)C(=O)NC1=CC=CC=C1 | InChI=1S/C9H12N2O.BrH/c1-7(10)9(12)11-8-5-3-2-4-6-8;/h2-7H,10H2,1H3,(H,11,12);1H/t7-;/m0./s1
